US06297375B1
b) N-[4-(2-Chloro-phenyl)-pyridin-3-yl]-2,2-dimethyl-propionamide
A mixture of 35 g (115 mmol) 2,2-dimethyl-N-(4-iodo-pyridin-3-yl)-acetamide, 400 ml toluene, 120 ml 2 N sodium carbonate solution, 4.0 g (3.5 mmol) tetrakis(triphenylphosphine)palladium(0) and 20.0 g (128 mmol) o-chlorophenylboronic acid was heated under argon at 80° C. for 12 h. After cooling to room temperature, the aqueous phase was separated and washed twice with toluene. The combined organic layers were washed with 50 ml brine, dried (magnesium sulfate) and evaporated. The residue was purified by flash chromatography to yield 21.6 g (65%) of the title compound as white crystals.

reactant | 2,2-dimethyl-N-(4-iodo-pyridin-3-yl)-acetamide | 115 mmol, 35 g | CC(C(=O)NC=1C=NC=CC1I)C | C9H11IN2O
reactant | sodium carbonate | 2 N, 120 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | o-chlorophenylboronic acid | 128 mmol, 20.0 g | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 3.5 mmol, 4.0 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | N-[4-(2-Chloro-phenyl)-pyridin-3-yl]-2,2-dimethyl-propionamide | 21.6 g, 65% | ClC1=C(C=CC=C1)C1=C(C=NC=C1)NC(C(C)(C)C)=O | C16H17ClN2O
